US07405221B2
2-(4-Fluorophenyloxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine
To a 5 mL round bottom flask fitted with a stirrer bar and septum was added 2 mL CH3CN and 2-methylsulfonyl-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine from from Reference Example 3 (100 mg, 0.24 mmol). Then 4-fluorophenol (10 eq., 269 mg, 2.4 mmol), K2CO3 (2 eq., 66.3 mg, 0.48 mmol) and a drop of tris[2-(2-methoxyethoxy)-ethyl]amine were added via syringe and the mixture heated at 70° C. for 2 h. By HPLC/MS, the starting material was converted to the desired product. The product was extracted from 10 mL water with 20 mL ethyl acetate, dried over anhydrous MgSO4, filtered and the solvent removed under reduced pressure. Flash column chromatography on silica gel (eluted with 90/10 hexanes/ethyl acetate) afforded 2-(4-fluorophenyloxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine: HPLC/MS: m/e=445 (M++1); Rt=4.53 min; 1H-NMR 400 MHz (CDCl3): δ 7.02 (d, J=9 Hz, 2H), 7.20-7.40 (m, 9H), 8.80 (s, 1H).

reactant | 2-methylsulfonyl-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine | CS(=O)(=O)C1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C17H11Cl3N2O2S
reactant | 4-fluorophenol | 2.4 mmol, 269 mg, 10 eq. | FC1=CC=C(C=C1)O | C6H5FO
reactant | K2CO3 | 0.48 mmol, 66.3 mg, 2 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | tris[2-(2-methoxyethoxy)-ethyl]amine | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
solvent | CH3CN | 2 mL | CC#N | C2H3N
product | 2-(4-Fluorophenyloxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine | FC1=CC=C(C=C1)OC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C22H12Cl3FN2O
